US07101900B2
c) 0-cyclopropylmethyl N-phenylacetyl-(2,6-dichlorophenyl)-acetamidoxime
5.0 g (18 mmol) of 0-cyclopropylmethyl (2,6-dichlorophenyl)acetamidoxime in 40 ml of toluene were heated to 85° C and admixed with 3.9 g (25 mmol) of phenylacetyl chloride. The mixture was heated at 100° C. for 5 h, cooled, poured into aqueous sodium hydrogen carbonate solution (pH 7) and extracted three times with toluene. The combined extracts were washed with water, dried over sodium sulfate and concentrated under reduced pressure. The crude product (5.6 g) was purified by silica gel chromatography using cyclohexane/ethyl acetate. M.p. 134–135° C.

reactant | 0-cyclopropylmethyl (2,6-dichlorophenyl)acetamidoxime | 18 mmol, 5.0 g | C1(CC1)CC1(C(C(=CC=C1)Cl)CC(N)=NO)Cl | C12H16Cl2N2O
reactant | phenylacetyl chloride | 25 mmol, 3.9 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | sodium hydrogen carbonate | pH 7 | C(O)([O-])=O.[Na+]
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 0-cyclopropylmethyl N-phenylacetyl-(2,6-dichlorophenyl)-acetamidoxime | C1(CC1)CC1=C(C=CC=C1)CC(=O)NC(CC1=C(C=CC=C1Cl)Cl)=NO | C20H20Cl2N2O2
